US08044041B2
(5-Bromo-2-chloro-phenyl)-carbamic acid tert-butyl ester
A solution of 5-Bromo-2-Chloro benzoic acid (24 g, 0.1 mol), di-phenylphosphoryl azide (28 mL, 1.3 eq), and Et3N (140 mL, 10 eq) in tert-butanol (300 mL) was refluxed for 3 hrs. The resulting solution was concentrated under reduced pressure, diluted with ether (300 mL) and washed with HCl 1N (300 mL), saturated solution of NaHCO3 (200 mL), and brine (200 mL). The organic layers was dried over anhydrous sodium sulfate and concentrated. Chromatography on silica (EtOAc/n-hexane) yielded, (26 g, 85%).

reactant | 5-Bromo-2-Chloro benzoic acid | 0.1 mol, 24 g | BrC=1C=CC(=C(C(=O)O)C1)Cl | C7H4BrClO2
reactant | di-phenylphosphoryl azide | 28 mL, 1.3 eq | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | Et3N | 140 mL, 10 eq | CCN(CC)CC | C6H15N
reactant | tert-butanol | 300 mL | C(C)(C)(C)O | C4H10O
product | (5-Bromo-2-chloro-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=CC(=C1)Br)Cl)=O | C11H13BrClNO2
